US06380437B1
21.1 g 2-methyl-3-butin-2-ol, 54.1 g isopropenyl methyl ether, 0.05 g hydroquinone and 100 mL n-heptane were initially introduced into a 500 ml flask. 20.7 mg methanesulfonic acid were added, while stirring. The reaction mixture was stirred under reflux for 6.5 hours. After cooling, it was neutralized with 2 ml methanolic NaOAc solution (10 g/1) and evaporated. After distillation in vacuo, 27.5 g 6-methyl-4,5-heptadien-2-one were obtained, corresponding to a yield of 89%.

reactant | 2-methyl-3-butin-2-ol | 21.1 g | CC(C)(C#C)O | C5H8O
reactant | isopropenyl methyl ether | 54.1 g | COC(=C)C | C4H8O
reactant | NaOAc | 2 ml, 10 g | CC(=O)[O-].[Na+]
catalyst | hydroquinone | 0.05 g | C1(O)=CC=C(O)C=C1 | C6H6O2
catalyst | methanesulfonic acid | 20.7 mg | CS(=O)(=O)O | CH4O3S
solvent | n-heptane | 100 mL | CCCCCCC | C7H16
product | 6-methyl-4,5-heptadien-2-one | 27.5 g, yield of 89% | CC(=C=CCC(C)=O)C | C8H12O
